************************************************************************
* auCdl Netlist:
* 
* Library Name:  MDT_Project
* Top Cell Name: senseamp
* View Name:     schematic
* Netlisted on:  Mar 18 23:02:53 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MDT_Project
* Cell Name:    senseamp
* View Name:    schematic
************************************************************************

.SUBCKT senseamp BL BLB SAen gnd pch vdd
*.PININFO BL:I BLB:I SAen:I pch:I vdd:I gnd:B
XM10 net012 pch vdd vdd psvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM9 net017 pch vdd vdd psvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM8 net017 pch net012 net012 psvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM7 net017 SAen BLB BLB psvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM3 net017 net012 vdd vdd psvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM2 net012 net017 vdd vdd psvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM0 net012 SAen BL BL psvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM5 net26 SAen gnd gnd nsvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM4 net017 net012 net26 net26 nsvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM1 net012 net017 net26 net26 nsvtlp w=13.5 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
.ENDS

