************************************************************************
* auCdl Netlist:
* 
* Library Name:  MDT_Project
* Top Cell Name: SA_MUX16
* View Name:     schematic
* Netlisted on:  Mar 23 19:56:28 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd

*.PIN gnd

************************************************************************
* Library Name: MDT_Project
* Cell Name:    SA_MUX16
* View Name:    schematic
************************************************************************

.SUBCKT SA_MUX16 BL BLB Pch Q QB SAen
*.PININFO BL:I BLB:I Pch:I SAen:I Q:O QB:O
XM17 QB SAf VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM16 QB Q VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM11 Q QB VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM10 Q SAt VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM6 BLB SAen SAf VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM5 BL SAen SAt VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM4 SAf SAt VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM3 SAt SAf VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM2 SAt Pch SAf VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM1 SAf Pch VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM0 SAt Pch VDD VDD psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM19 net2 SAf gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM18 QB Q net2 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM15 net1 QB gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM14 Q SAt net1 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM9 net4 SAen gnd gnd nsvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM8 SAf SAt net4 gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM7 SAt SAf net4 gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

