* Sense Amplifier Characterization - 8192x32 M16 Memory
.option post=1 summary=1
.lib 'path_to_your_pdk.lib' tt  $ Change to 'ss' for Worst Case

* --- Parameters ---
.param VDD_VAL = 1.08
.param DELTA_V = 0.100
.param CLOAD = 5f

* --- Voltage Sources ---
V_VDD VDD 0 VDD_VAL
V_GND GND 0 0

* PCH: Low (0) for Precharge, High (1.08) for Eval
VPCH Pch 0 PULSE(0 VDD_VAL 100p 10p 10p 400p 1000p)

* BLB: Discharge by 100mV
VBLB BLB 0 PULSE(VDD_VAL {VDD_VAL-DELTA_V} 50p 100p 10p 500p 1000p)
VBL  BL  0 VDD_VAL

* SAen: 100ps Pulse
VSAEN SAen 0 PULSE(0 VDD_VAL 150p 10p 10p 100p 1000p)

* --- Sense Amplifier Core ---
* PMOS Precharge/Equalize
M0 SAt Pch VDD VDD PMOS W=200n L=10n
M1 SAf Pch VDD VDD PMOS W=200n L=10n
M2 SAt Pch SAf VDD PMOS W=200n L=10n

* Cross-Coupled Inverters
M3 SAt SAf VDD VDD PMOS W=150n L=10n
M4 SAf SAt VDD VDD PMOS W=150n L=10n
M7 SAt SAf Ntail 0 NMOS W=400n L=10n
M8 SAf SAt Ntail 0 NMOS W=400n L=10n

* Input Mux/Access (Simplified)
M5 SAt SAen BL  0 NMOS W=100n L=10n
M6 SAf SAen BLB 0 NMOS W=100n L=10n

* Tail Transistor
M9 Ntail SAen 0 0 NMOS W=800n L=10n

* --- NAND Latch (Simplified Example) ---
* You should replace these with your actual NAND subcircuit
XNAND1 Q  SAt QB VDD NAND_GATE
XNAND2 QB SAf Q  VDD NAND_GATE

* --- Analysis ---
.tran 1p 1000p

* --- Measurement ---
* Measure Delay from SAen 50% to Q 50%
.meas tran sa_delay TRIG v(SAen) val={VDD_VAL*0.5} rise=1 
+                  TARG v(Q)    val={VDD_VAL*0.5} rise=1

* Measure Bitline Differential at the moment SAen fires
.meas tran diff_v_at_saen FIND (v(BL)-v(BLB)) AT=150p

.end
