************************************************************************
* auCdl Netlist:
* 
* Library Name:  MDT
* Top Cell Name: senseamp
* View Name:     schematic
* Netlisted on:  Apr  8 23:20:48 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MDT
* Cell Name:    senseamp
* View Name:    schematic
************************************************************************

.SUBCKT senseamp BL BLB Q QB SAF SAT SAen gnd pch vdd
*.PININFO BL:I BLB:I SAen:I pch:I vdd:I Q:O QB:O SAF:O SAT:O gnd:B
MM18 QB SAT vdd vdd psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM16 QB Q vdd vdd psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM15 Q QB vdd vdd psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM10 SAF pch vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM9 SAT pch vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM8 SAT pch SAF vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM14 Q SAF vdd vdd psvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM7 SAT SAen BLB vdd psvtlp w=1.8 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM3 SAT SAF vdd vdd psvtlp w=1.6 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM2 SAF SAT vdd vdd psvtlp w=1.6 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM0 SAF SAen BL vdd psvtlp w=1.8 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM17 QB Q net058 gnd nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM13 net058 SAT gnd gnd nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM12 Q SAF net059 gnd nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM6 net059 QB gnd gnd nsvtlp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM5 net019 SAen gnd gnd nsvtlp w=2.8 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM4 SAT SAF net019 gnd nsvtlp w=2.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM1 SAF SAT net019 gnd nsvtlp w=2.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

